US06884821B1
795 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionic acid was dissolved in 2 ml N,N-dimethylformamide, and 0.3 ml iodoethane and 200 mg potassium carbonate were successively added. After stirring at 50° C. for 4 hours, the reaction mixture was diluted with ethyl acetate, The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was purified by silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (8:1), 185 mg of ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-ethoxyphenyl)-2-isopropoxypropionate was obtained.

reactant | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-hydroxyphenyl)-2-isopropoxypropionic acid | 795 mg | C(C)C(C(=O)O)(CC1=CC(=C(C=C1)O)CNC(=O)OC(C)(C)C)OC(C)C | C20H31NO6
reactant | iodoethane | 0.3 ml | ICC | C2H5I
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(3-[(tertiary butoxycarbonyl)amino]methyl-4-ethoxyphenyl)-2-isopropoxypropionate | 185 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1OCC)CC(C(=O)OCC)OC(C)C | C22H35NO6
